US06566385B2
Step J: Preparation of N-[1-(4-Cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-3-(3-methoxy-phenyl)-propionamide
(+)-4-[1-amino-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-2-fluoro-benzonitrile (0.074 g, 0.25 mmol), 3-(3-methoxyphenyl)propionic acid (0.054 g, 0.3 mmol) (K. J. Hwang et al., J. Org. Chem. (1992), 57[4]1262), EDC (0.275 g, 1.2 mmol), HOAT (0.055 g, 0.40 mmol), and triethylamine (0.167 mL, 1.2 mmol) were combined in DMF (3 mL) and stirred under Ar at ambient temperature for 20 hr. The reaction mixture was partitioned between EtOAc (120 mL) and H2O (100 mL), the organic layer separated, washed with dilute NaHCO3 solution, H2O, brine, and dried (MgSO4). Filtration and concentration to dryness gave the title compound.

reactant | (+)-4-[1-amino-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-2-fluoro-benzonitrile | 0.25 mmol, 0.074 g | NC(C)(C=1N(C=NC1)C)C1=CC(=C(C#N)C=C1)F | C13H13FN4
reactant | 3-(3-methoxyphenyl)propionic acid | 0.3 mmol, 0.054 g | COC=1C=C(C=CC1)CCC(=O)O | C10H12O3
reactant | EDC | 1.2 mmol, 0.275 g
reactant | HOAT | 0.40 mmol, 0.055 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 1.2 mmol, 0.167 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[1-(4-Cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-3-(3-methoxy-phenyl)-propionamide | C(#N)C1=C(C=C(C=C1)C(C)(C=1N(C=NC1)C)NC(CCC1=CC(=CC=C1)OC)=O)F | C23H23FN4O2
